simulator lang=spectre
global 0

ahdl_include "../submission/residue_amp_gain_calibration_top.va"
ahdl_include "../submission/residue_amp_core.va"
ahdl_include "../submission/gain_cal_controller.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.55 92n 0.55]
Vref (residue_ref 0) vsource type=pwl wave=[0 0.75 54n 0.75 54.2n 0.56 72n 0.56 72.2n 0.75 92n 0.75]
Vclk (clk 0) vsource type=pwl wave=[0 0 9n 0 10n 0.9 12n 0.9 12.2n 0 15n 0.9 17n 0.9 17.2n 0 20n 0.9 22n 0.9 22.2n 0 25n 0.9 27n 0.9 27.2n 0 30n 0.9 32n 0.9 32.2n 0 35n 0.9 37n 0.9 37.2n 0 40n 0.9 42n 0.9 42.2n 0 45n 0.9 47n 0.9 47.2n 0 50n 0.9 52n 0.9 52.2n 0 55n 0.9 57n 0.9 57.2n 0 60n 0.9 62n 0.9 62.2n 0 65n 0.9 67n 0.9 67.2n 0 70n 0.9 72n 0.9 72.2n 0 75n 0.9 77n 0.9 77.2n 0 80n 0.9 82n 0.9 82.2n 0 85n 0.9 87n 0.9 87.2n 0 92n 0]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.2n 0 68n 0 68.2n 0.9 71n 0.9 71.2n 0 92n 0]
Ven (cal_en 0) vsource type=pwl wave=[0 0 5n 0 5.2n 0.9 80n 0.9 80.2n 0 92n 0]
XDUT (vin residue_ref clk rst cal_en gain_2 gain_1 gain_0 vout error_metric locked) residue_amp_gain_calibration_top

tran tran stop=92n maxstep=200p
save vin residue_ref clk rst cal_en gain_2 gain_1 gain_0 vout error_metric locked
